US04831151
1.44 g (6 mmol) of 1-[[p-(dimethylamino)benzylidene]-amino]-2-ethylimidazole are dissolved in 20 ml of methylene chloride. The solution is treated with 1.72 g (6 mmol) of 3,4,5-trimethoxyphenacyl bromide and left to stand at room temperature for 46 hours. The product is crystallized out by the addition of ether and recrystallized from ethanol. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-ethyl-3-(3,4,5-trimethoxyphenacyl)-imidazolium bromide of melting point 232° (decomposition).

reactant | 1-[[p-(dimethylamino)benzylidene]-amino]-2-ethylimidazole | 6 mmol, 1.44 g | CN(C1=CC=C(C=NN2C(=NC=C2)CC)C=C1)C | C14H18N4
reactant | 3,4,5-trimethoxyphenacyl bromide | 6 mmol, 1.72 g | COC=1C=C(C(CBr)=O)C=C(C1OC)OC | C11H13BrO4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethyl-3-(3,4,5-trimethoxyphenacyl)-imidazolium bromide | [Br-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)CC(=O)C2=CC(=C(C(=C2)OC)OC)OC)CC)C=C1)C | InChI=1S/C25H31N4O4.BrH/c1-7-24-28(12-13-29(24)26-16-18-8-10-20(11-9-18)27(2)3)17-21(30)19-14-22(31-4)25(33-6)23(15-19)32-5;/h8-16H,7,17H2,1-6H3;1H/q+1;/p-1
